US05925667
1-ethyl-2-(3,4-dimethoxy-5-geranyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 3,4-dimethoxy -5-geranyloxy benzoic acid (0.80 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.31 g), thereby yielding 0.62 g (58%) of the aimed compound.

reactant | 3,4-dimethoxy -5-geranyloxy benzoic acid | 0.80 g | COC=1C=C(C(=O)O)C=C(C1OC)OC\C=C(/C)\CCC=C(C)C | C19H26O5
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.31 g | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(3,4-dimethoxy-5-geranyloxybenzoylaminomethyl)pyrrolidine | 0.62 g, 58% | C(C)N1C(CCC1)CNC(C1=CC(=C(C(=C1)OC\C=C(/C)\CCC=C(C)C)OC)OC)=O | C26H40N2O4
